US06166006
Under nitrogen atmosphere, to a solution of ethyl magnesium chloride in tetrahydrofuran (1.58M, 95 ml) was added diethyl phosphite (6.91 g) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the mixture was added benzyl bromide (7.2 ml), and the mixture was refluxed for 4 hours. The reaction mixture was vigorously stirred and concentrated hydrochloric acid-ice was added to the mixture to stop the reaction. The mixture was extracted with diethylether and concentrated. To the residue was added chloroform, and the mixture was washed with water and concentrated under reduced pressure. The residue was separated and purified with column chromatography (ethyl acetate/ethanol=3:1→2:1) to give benzyldiethylphosphine oxide (1.45 g) as colorless crystals.

reactant | ethyl magnesium chloride | C(C)[Mg]Cl
reactant | diethyl phosphite | 6.91 g | P(OCC)(OCC)[O-]
reactant | benzyl bromide | 7.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | tetrahydrofuran | 1.58M, 95 ml | O1CCCC1 | C4H8O
product | benzyldiethylphosphine oxide | 1.45 g | C(C1=CC=CC=C1)P(CC)(CC)=O | C11H17OP
